US06403639B1
In a solution of 2.84 g of 4-t-butyl-5-hydroxy-2,3-dihydrobenzofuran [J. Org. Chem. 53, 4135 (1988)] in 10.0 g of t-butyl alcohol and 20 ml of chloroform was added dropwise 10 ml of methane sulfonate under ice-cooling. The mixture was stirred at 0° C. for 15 minutes, then poured into ice water. Then, the mixture was neutralized with a 1N aqueous sodium hydroxide solution and extracted with ethyl acetate. The extracted layers were washed with a saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane) to give 1.78 g of 4,7-di-t-butyl-5-hydroxy-2,3-dihydrobenzofuran as a white crystal (yield 48%).

reactant | 4-t-butyl-5-hydroxy-2,3-dihydrobenzofuran | 2.84 g | C(C)(C)(C)C1=C(C=CC2=C1CCO2)O | C12H16O2
reactant | methane sulfonate | 10 ml | CS(=O)(=O)[O-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | t-butyl alcohol | 10.0 g | C(C)(C)(C)O | C4H10O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,7-di-t-butyl-5-hydroxy-2,3-dihydrobenzofuran | 1.78 g, yield 48% | C(C)(C)(C)C1=C(C=C(C2=C1CCO2)C(C)(C)C)O | C16H24O2
